US07560586B2
2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-2-ethyl-butyric acid methyl ester
To a solution of (3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-acetic acid methyl ester (70 mg, 0.12 mmol) in dry THF (50 mL) was added lithium diisopropylamide (1.7 mL, 1.2 mmol) dropwise with cooling to −78° C. After the reaction mixture was stirred at −78° C. for an additional 1 h, iodoethane (0.4 mL) was added. The reaction was warmed to RT over 4 h followed by quenching with saturated ammonium chloride (10 mL). Solvent was removed and the residue was partitioned between water and ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, and concentrated. The residue was purified by silica gel column chromatograph (EtOAc:Hexane/20:80) to give the title compound as an oil (37 mg, 50%). MS m/e 652.2 (M+H)+.

reactant | (3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-acetic acid methyl ester | 0.12 mmol, 70 mg | COC(CC1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C34H33ClF3NO3
reactant | lithium diisopropylamide | 1.2 mmol, 1.7 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | iodoethane | 0.4 mL | ICC | C2H5I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-2-ethyl-butyric acid methyl ester | 37 mg, 50% | COC(C(CC)(CC)C1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C38H41ClF3NO3
